US04107307
3-(2-n-Propyl-4-imidazolylmethylene)carbazic acid ethyl ester
A 7.8 gm. portion of 2-n-propyl-4-imidazolecarboxaldehyde and 6.24 gm. of ethyl carbazate is reacted as described in Example 32 giving the desired product, m.p. 180°-182° C.

reactant | 2-n-propyl-4-imidazolecarboxaldehyde | C(CC)C=1NC=C(N1)C=O | C7H10N2O
reactant | ethyl carbazate | C(NN)(=O)OCC | C3H8N2O2
product | 3-(2-n-Propyl-4-imidazolylmethylene)carbazic acid ethyl ester | C(C)OC(NN=CC=1N=C(NC1)CCC)=O | C10H16N4O2
